US05708008
N,N-dimethyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea
Beginning with 13.0 mg (0.056 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 6.4 mg (0.059 mMol) dimethyl carbamoyl chloride, 13.2 mg (79%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.056 mMol, 13.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | dimethyl carbamoyl chloride | 0.059 mMol, 6.4 mg | CN(C(=O)Cl)C | C3H6ClNO
product | N,N-dimethyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea | 13.2 mg, 79% | CN(C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C)C | C17H24N4O
